US08871756B2
Benzyl trans-3-fluoro-4-{[6-methyl-2-(1-oxido-2,3-dihydro-1,4-benzothiazepin-4 (5H)-yl)quinazolin-4-yl]amino}pyrrolidine-1-carboxylate
A suspension of 6-methyl-2-(1-oxido-2,3-dihydro-1,4-benzothiazepin-4 (5H)-yl)quinazolin-4(3H)-one (600 mg, 1.77 mmol, prepared in analogy to the one in Example 91), benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate (1.02 g, 2.3 mmol), and 1,8-diazabicyclo[5.4.0]undec-7-ene (400 mg, 2.6 mmol) in anhydrous N,N-dimethylformamide (10 mL) was stirred at room temperature for 10 minutes. Then a solution of benzyl trans-3-amino-4-fluoropyrrolidine-1-carboxylate (500 mg, 2.1 mmol) in N,N-dimethylformamide (5 mL) was added dropwise. After being heated at 60° C. overnight, the mixture was diluted with water (50 mL), extracted with dichloromethane (50 mL). The organic layer was washed with brine, dried over anhydrous sodium sulfate, and concentrated in vacuo. The residue was purified by flash column chromatography (gradient eluting with 10% to 25% ethyl acetate in dichloromethane) to afford 415 mg of the desired product as a yellow solid (yield was 41.8%).

reactant | 6-methyl-2-(1-oxido-2,3-dihydro-1,4-benzothiazepin-4 (5H)-yl)quinazolin-4(3H)-one | CC=1C=C2C(NC(=NC2=CC1)N1CCS(C2=C(C1)C=CC=C2)=O)=O | C18H17N3O2S
reactant | benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate | 2.3 mmol, 1.02 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 2.6 mmol, 400 mg | N12CCCCCC2=NCCC1 | C9H16N2
reactant | benzyl trans-3-amino-4-fluoropyrrolidine-1-carboxylate | 2.1 mmol, 500 mg | N[C@@H]1CN(C[C@H]1F)C(=O)OCC1=CC=CC=C1 | C12H15FN2O2
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | water | 50 mL | O | H2O
product | Benzyl trans-3-fluoro-4-{[6-methyl-2-(1-oxido-2,3-dihydro-1,4-benzothiazepin-4 (5H)-yl)quinazolin-4-yl]amino}pyrrolidine-1-carboxylate | 415 mg, yield was 41.8% | F[C@@H]1CN(C[C@H]1NC1=NC(=NC2=CC=C(C=C12)C)N1CCS(C2=C(C1)C=CC=C2)=O)C(=O)OCC2=CC=CC=C2 | C30H30FN5O3S
